US04268676
1,1a,2,8,8a,8b-Hexahydro-8(hydroxymethyl)-8a-methoxy-1,5-dimethyl-6-(2-chloroethylamino)-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate
To a solution of 33 mg (0.09 mmol) of N-methylmitomycin A in 5 ml of anhydrous methanol, a solution of 56 mg of 2-chloroethylamine hydrochloride (0.5 mmol) in 2.5 ml of methanol and a solution of 41 mg sodium acetate (0.5 mmol) in 2.5 ml of methanol were added alternatively with constant stirring over a period of 10 minutes. The stirred reaction mixture was checked frequently by TLC and the reaction appeared to be complete in 24 hours. The solvent was evaporated and the residue was chromatographed using silica-gel as adsorbent. The fraction obtained by eluting the column with ethyl acetate was evaporated under reduced pressure. Recrystallization from a mixture of chloroform and hexane gave 16 mg (38% yield) of the desired product as purple-colored crystals having a melting point of 73°-74° C. (decomposing) and providing the following analysis:

reactant | N-methylmitomycin A | 0.09 mmol, 33 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4C)OC | C17H21N3O6
reactant | 2-chloroethylamine hydrochloride | 0.5 mmol, 56 mg | Cl.ClCCN
reactant | sodium acetate | 0.5 mmol, 41 mg | C(C)(=O)[O-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 2.5 ml | CO | CH4O
solvent | methanol | 2.5 ml | CO | CH4O
product | 1,1a,2,8,8a,8b-Hexahydro-8(hydroxymethyl)-8a-methoxy-1,5-dimethyl-6-(2-chloroethylamino)-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate | 16 mg, 38% yield | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)NCCCl)C)=O)CC1C2N1C)OC | InChI=1S/C17H22ClN3O4.CH3NO2/c1-8-12(19-5-4-18)15(24)11-9(7-22)17(25-3)16-10(20(16)2)6-21(17)13(11)14(8)23;2-1(3)4/h9-10,16,19,22H,4-7H2,1-3H3;2H2,(H,3,4)
